US07777047B2
N-[2-(benzylthio)-3,3-dimethoxypropyl]-1-(methoxymethyl)-7-[methyl(pyridin-2-ylsulfonyl)amino]-1H-indole-2-carboxamide
To a solution of N-[2-(benzylthio)-3,3-dimethoxypropyl]-1-(methoxymethyl)-7-[(pyridin-2-ylsulfonyl)amino]-1H-indole-2-carboxamide (1.52 g) and potassium carbonate (0.54 g) in N,N-dimethylformamide (14 mL) was added methyl iodide (0.16 mL) under ice-cooling, and the mixture was stirred from under ice-cooling to room temperature for 18 hr. The reaction solution was ice-cooled, potassium carbonate (0.30 g) and methyl iodide (0.16 mL) were added again, and the mixture was further stirred from under ice-cooling to room temperature for 15 hr. The reaction solution was diluted with ethyl acetate, washed with aqueous citric acid solution, water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was subjected to silica gel column chromatography (ethyl acetate:hexane=4:6-6:4) to give the title compound (1.6 g, yield: 100%) as a colorless oil.

reactant | N-[2-(benzylthio)-3,3-dimethoxypropyl]-1-(methoxymethyl)-7-[(pyridin-2-ylsulfonyl)amino]-1H-indole-2-carboxamide | 1.52 g | C(C1=CC=CC=C1)SC(CNC(=O)C=1N(C2=C(C=CC=C2C1)NS(=O)(=O)C1=NC=CC=C1)COC)C(OC)OC | C28H32N4O6S2
reactant | potassium carbonate | 0.54 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 0.16 mL | CI | CH3I
reactant | potassium carbonate | 0.30 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 0.16 mL | CI | CH3I
solvent | N,N-dimethylformamide | 14 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[2-(benzylthio)-3,3-dimethoxypropyl]-1-(methoxymethyl)-7-[methyl(pyridin-2-ylsulfonyl)amino]-1H-indole-2-carboxamide | 1.6 g, yield: 100% | C(C1=CC=CC=C1)SC(CNC(=O)C=1N(C2=C(C=CC=C2C1)N(S(=O)(=O)C1=NC=CC=C1)C)COC)C(OC)OC | C29H34N4O6S2
